US07417062B2
Step 2: 7-Methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid benzo[b]thiophen-2-ylmethyl-((S)-1-cyclobutyl-pyrrolidin-2-ylmethyl)-amide.
Experimental conditions were analogous to Example 58, from 0.29 g (0.84 mmol) of (S)-2-{[(benzo[b]thiophen-2-ylmethyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester, 10 mL dichloromethane, 141 μL (1.01 mmol) of triethylamine, and 0.22 mg (0.92 mmol) of 7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carbonyl chloride. The crude mixture was filtered through silica and the Boc-deprotection was conducted in 10 mL 10% trifluoroacetic acid/dichloromethane in 2 hours, followed by aqueous sodium bicarbonate quench. The crude material from organic layer was alkylated in 5 mL dichloromethane, with 0.2 g (2.5 mmol) of cyclobutanone and 0.53 mg (2.5 mmol) of sodium triacetoxyborohydride. After 2 days the reaction was quenched with aqueous sodium bicarbonate and di-tert-butyl dicarbonate. The residue from the organic layer was purified using reverse phase HPLC, mobile phase with a gradient 15-80% acetonitrile in 50 min., gave 92 mg of off-white solid as the free base. LC-MSD, m/z for C29H34N2O4S [M+H]+: 507.6. 1H NMR (400 MHz, CDCl3): δ 1.5-3.5 (m, 16 H), 1.7 (s, 6 H), 3.8 (bs, 3 H), 5.0 (bs, 2 H), 6.6 (s, 1 H), 6.7 (s, 1 H), 7.2 (bs, 1 H), 7.3-7.4 (m, 2 H), 7.7-7.8 (m, 1 H), 7.8-7.9 (m, 1 H).

reactant | (S)-2-{[(benzo[b]thiophen-2-ylmethyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.84 mmol, 0.29 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CNCC1=CC2=C(S1)C=CC=C2 | C19H26N2O2S
reactant | triethylamine | 1.01 mmol, 141 μL | C(C)N(CC)CC | C6H15N
reactant | 7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carbonyl chloride | 0.92 mmol, 0.22 mg | COC1=CC(=CC2=C1OC(O2)(C)C)C(=O)Cl | C11H11ClO4
reactant | cyclobutanone | 2.5 mmol, 0.2 g | C1(CCC1)=O | C4H6O
reactant | sodium triacetoxyborohydride | 2.5 mmol, 0.53 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 7-Methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid benzo[b]thiophen-2-ylmethyl-((S)-1-cyclobutyl-pyrrolidin-2-ylmethyl)-amide | 92 mg | S1C2=C(C=C1CN(C(=O)C1=CC3=C(OC(O3)(C)C)C(=C1)OC)C[C@H]1N(CCC1)C1CCC1)C=CC=C2 | C29H34N2O4S
